US06660744B1
Cis-3-(4-aminophenyl)-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.6 g, 0.00148 mol) and bromoacetophenone (0.295 g, 0.00148 mol) were dissolved in anhydrous N,N-dimethylformamide (30 mL) and the resulting mixture was stirred at ambient temperature under an atmosphere of nitrogen for 5 min. N,N-diisopropylethylamine (0.095 g, 0.00074 mol) was added dropwise and stirring under an atmosphere of nitrogen was continued for sixteen hours. The reaction mixture was concentrated under reduced pressure and the residue was purified by preparative HPLC (Hypersil C18, 8 μm, 25 cm; 10-60% acetonitrile-0.1 M ammonium acetate over 25 min, 21 mL/min) to yield cis-2-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}anilino)-1-phenyl-1-ethanone diacetate (0.410 g, 0.00064 mol) as a white solid.

reactant | Cis-3-(4-aminophenyl)-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.00148 mol, 0.6 g | NC1=CC=C(C=C1)C1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C | C22H30N8
reactant | bromoacetophenone | 0.00148 mol, 0.295 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | N,N-diisopropylethylamine | 0.00074 mol, 0.095 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | cis-2-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}anilino)-1-phenyl-1-ethanone diacetate | 0.00064 mol, 0.410 g | C(C)(=O)O.C(C)(=O)O.NC1=C2C(=NC=N1)N(N=C2C2=CC=C(NCC(=O)C1=CC=CC=C1)C=C2)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C | InChI=1S/C30H36N8O.2C2H4O2/c1-36-15-17-37(18-16-36)24-11-13-25(14-12-24)38-30-27(29(31)33-20-34-30)28(35-38)22-7-9-23(10-8-22)32-19-26(39)21-5-3-2-4-6-21;2*1-2(3)4/h2-10,20,24-25,32H,11-19H2,1H3,(H2,31,33,34);2*1H3,(H,3,4)/t24-,25+;;
